US07368578B2
A mixture of 1-(4-chloromethyl-1,3-thiazol-2-yl)piperidine (1.00 g), potassium carbonate (0.64 g), vanillin (0.70 g) and N,N-dimethylformamide (30 mL) was stirred at 80° C. for 2 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 3-methoxy-4-[(2-piperidin-1-yl-1,3-thiazol-4-yl)methoxy]benzaldehyde as colorless crystals (1.34 g, 88%) from a fraction eluted with ethyl acetate-hexane (1:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 129-130° C.

reactant | 1-(4-chloromethyl-1,3-thiazol-2-yl)piperidine | 1.00 g | ClCC=1N=C(SC1)N1CCCCC1 | C9H13ClN2S
reactant | potassium carbonate | 0.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | vanillin | 0.70 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 3-methoxy-4-[(2-piperidin-1-yl-1,3-thiazol-4-yl)methoxy]benzaldehyde | 1.34 g, 88% | COC=1C=C(C=O)C=CC1OCC=1N=C(SC1)N1CCCCC1 | C17H20N2O3S
